US05444072
A solution of ethyl (S)(E)-2-{2-[2-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-yl}acetate (1.24 g) in tetrahydrofuran (8 ml) was cooled to 0° C. and treated with 1M tetrabutylammonium fluoride in tetrahydrofuran (3 ml). After 5 minutes, the reaction mixture was poured into ice water and extracted with ethyl acetate. The extracts were dried, evaporated and the residue chromatographed on silica gel (20% ethyl acetate/hexane) to give ethyl (S)(E)-2-{2-[2-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-yl}acetate, m.p. 95.0°-95.7° C.

reactant | ethyl (S)(E)-2-{2-[2-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-yl}acetate | 1.24 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C\C=C/1\[C@@H](CCC1)CC(=O)OCC)CC)C)=O | C28H42O5Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | ethyl (S)(E)-2-{2-[2-(1,3-dihydro-6-ethyl-4-hydroxy-7-methyl-3-oxoisobenzofuran-5-yl)ethylidene]cyclopent-1-yl}acetate | C(C)C1=C(C(=C2C(OCC2=C1C)=O)O)C\C=C/1\[C@@H](CCC1)CC(=O)OCC | C22H28O5
